US06207399B1
Boc-Glu(OtBu)-OH
H-Glu(OtBu)-OH (Rf(BuOH/AcOH/H2O 4:1:1 v/v/v): 0.52, [α]D=+9.3° C.=1.05 H2O, mp: 181° C. (dec.); lit24: [α]D=+9.8° C.=2 H2O, mp: 182° C.) (2.0 g, 9.85 mmol), NaHCO3 (1.86 g, 22.2 mmol, 2.25 eq.) were dissolved in H2O (40 mL) and Boc2O25 (2.36 g, 10.8 mmol, 1.10 eq.) dissolved in dioxane (20 mL) was added. The reaction mixture became turbid and gas evolution started. After 3 hrs of stirring at room temperature, the reaction mixture was partially evaporated in vacuo. The aqueous solution was acidified with 10% citric acid and the precipitating oil was taken up into EtOAc (three extractions 20 mL). The EtOAc layer was subsequently washed with H2O (five times 30 mL), saturated NaCl (three times 30 mL) and dried on Na2SO4. The residue obtained after evaporation in vacuo was an oil which crystallized slowly. Yield: 2.91 g (98%), Rf(BuOH/AcOH/H2O 4:1:1 v/v/v): 0.87, Rf(CH2Cl2/MeOH 9:1 v/v): 0.17, [α]D=−10.3° C.=0.93 MeOH, mp: 98-99° C. (lit26: [α]D=−10.9° C.=1 MeOH, mp:101-102° C.), 1H NMR (CDCl3): δ=1.44 (s, 18H, Boc/OtBu (2×9H)); 1.99/2.18 (dm, 2H, β-CH2); 2.38 (m, 2H, γ-CH2); 4.34 (m, 1H, α-CH); 5.23 (d, 1H, NH).

reactant | H-Glu(OtBu)-OH | 9.85 mmol, 2.0 g | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)O | C9H17NO4
reactant | NaHCO3 | 22.2 mmol, 1.86 g, 2.25 eq. | C(=O)(O)[O-].[Na+]
solvent | H2O | 40 mL | O | H2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Boc-Glu(OtBu)-OH | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OC(C)(C)C | C14H25NO6
